US04138289
A solution of 6.5 g (41 mmol) of (R)-3,7-dimethyl-1-octanol and 7.8 g (41 mmol) of p-toluenesulphonyl chloride in 50 ml of absolute chloroform is treated at 0° with 7.9 g (0.1 mol) of absolute pyridine. The mixture is subsequently stirred at 4° for 20 hours. For the working-up the mixture is poured on to 500 g of ice and extracted three times with chloroform. The combined organic phases are washed first with cold 1-N hydrochloric acid, then with saturated aqueous sodium bicarbonate solution and subsequently with saturated aqueous common salt solution. After drying over potassium carbonate and removal of the solvent under reduced pressure, the crude product is chromatographed on 300 g of silicagel with benzene. There are obtained 11.4 g (89%) of (R)-3,7-dimethyl-1-octanol p-toluenesulphonate; [α]D20 = +2.0 (c = 4.0, benzene).

reactant | (R)-3,7-dimethyl-1-octanol | 41 mmol, 6.5 g | C[C@@H](CCO)CCCC(C)C | C10H22O
reactant | p-toluenesulphonyl chloride | 41 mmol, 7.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 0.1 mol, 7.9 g | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | (R)-3,7-dimethyl-1-octanol p-toluenesulphonate | 11.4 g, 89% | C1(=CC=C(C=C1)S(=O)(=O)OCC[C@@H](CCCC(C)C)C)C | C17H28O3S
